US06635657B1
A. 4-(Methylsulfonyl)nitrobenzene
To a stirring solution of methyl 4-nitrophenyl sulfide (10 g, 59.1 mmol) in chloroform at 0° C. was added m-chloroperoxybenzoic acid (55.6 g, 177.3 mmol). After 3 h, ethyl acetate (1.2 L) was added followed by satd aq sodium bisulfite. After stirring overnight, the layers were separated and the organic phase was washed with satd aq sodium bicarbonate (3×200 mL), followed by brine, and then dried over MgSO4, filtered and concentrated in vacuo to give 11.27 g (95%) of the title compound.

reactant | methyl 4-nitrophenyl sulfide | 59.1 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C=C1)SC | C7H7NO2S
reactant | m-chloroperoxybenzoic acid | 177.3 mmol, 55.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ethyl acetate | 1.2 L | C(C)(=O)OCC | C4H8O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(Methylsulfonyl)nitrobenzene | 11.27 g, 95% | CS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO4S
